US08071624B2
At 0° C., to a mixture of tert-butyl (cis-4-hydroxycyclohexyl)carbamate (100 mg, 0.5 mmol), 4-pyridinol (106 mg, 1.11 mmol), and triphenylphosphine (292 mg, 1.11 mmol) in tetrahydrofuran (2 mL) was added diethyl azodicarboxylate (176 μL, 1.11 mmol) with stirring. The mixture was stirred at r.t. overnight, then quenched with sat'd NH4Cl solution, and extracted with ethyl acetate. The extract was washed with water twice, brine once. Then, the extracdt was dried over Na2SO4. After filtration, the filtrate was concentrated to yield tert-butyl [trans-4-(pyridin-4-yloxy)cyclohexyl]carbamate.

reactant | tert-butyl (cis-4-hydroxycyclohexyl)carbamate | 0.5 mmol, 100 mg | O[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | 4-pyridinol | 1.11 mmol, 106 mg | N1=CC=C(C=C1)O | C5H5NO
reactant | triphenylphosphine | 1.11 mmol, 292 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.11 mmol, 176 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | tert-butyl [trans-4-(pyridin-4-yloxy)cyclohexyl]carbamate | N1=CC=C(C=C1)O[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C16H24N2O3
